US04814342
D. 2(S), 3(R)-Epoxy-4-cyclohexyl-1-butanol
A 1 L three-necked flask equipped with thermometer, mechanical stirrer, nitrogen inlet and cooling bath was charged with 15 g 4 anstrom 600-mesh molecular seives, 400 mL dichloromethane, and 7.23 mL (+)diisopropyl L-tartrate (Aldrich). The stirred mixture was cooled to -5° C. and 6.75 mL titanium tetraisopropoxide was added, followed by 227 mL 3.OM t-butyl hydroperoxide in toluene (Aldrich), neither of which produced appreciable exotherm. To the stirred mixture at -20° C. was added a solution of 70 g of the product of Example 3C in 30 mL dichloromethane over 10 min. so that the temperature did not rise about -20° C. The mixture was stirred 6 h at -10° C., then placed (without stirring) in a refrigerator (-10° C.) for 60h. The mixture was again stirred in an ice bath and 120 mL water was added, followed by 30 mL 6N sodium hydroxide solution and the mixture was saturated with sodium chloride. Methanol (50 mL) was added and the mixture was filtered, treated with 100 mL 0.1M pH 7 phosphate buffer and after vigorous shaking was allowed to stand until partial separation occurred. The lower (organic) layer was separated, and the top (aqueous) and middle (emulsion) layers were extracted with dichloromethane (3×200 mL). The remaining emulsion (middle layer) was filtered through Celite, causing its complete separation into organic and aqueous layers. The combined organic layers were washed with pH 7 phosphate buffer (3×100 mL), aqueous bicarbonate, brine, dried (magnesium sulfate), filtered and concentrated to give 85 g of a viscous oil which was distilled using an 8" Vigreux column to give 12 g, bp 60°-122° C. at 0.5 mm, then 51 g of the title substance, bp 122°-130° C. at 0.45 mm, TLC Rf 0.20 in 2:1, system B.

reactant | (+)diisopropyl L-tartrate | 7.23 mL | C(=O)(OC(C)C)[C@H](O)[C@@H](O)C(=O)OC(C)C | C10H18O6
reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | sodium hydroxide | 6N, 30 mL | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | titanium tetraisopropoxide | 6.75 mL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | Methanol | 50 mL | CO | CH4O
solvent | water | 120 mL | O | H2O
product | 3(R)-Epoxy-4-cyclohexyl-1-butanol | 85 g | O1[C@H](CCO)C1C1CCCCC1 | C10H18O2
